US07388025B2
Benzofuran-2-yl-(5-methyl-3-phenyl-isoxazol-4-yl)-methanone
To a solution of 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (140 mg, 0.5 mmol) in DMF (0.5 mL) was added salicylaldehyde (61 mg, 53 μL, 0.5 mmol) followed by potassium carbonate (138 mg, 1.0 mmol) and the resulting mixture stirred vigorously at room temperature for 2 h. The mixture was then poured onto ice-water, and extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over Na2SO4 and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate:=100:0 to 1:1) afforded the title compound (131 mg, 86%) as a white solid. MS m/e: 304.0 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | salicylaldehyde | 0.5 mmol, 53 μL, 61 mg | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | potassium carbonate | 1.0 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | Benzofuran-2-yl-(5-methyl-3-phenyl-isoxazol-4-yl)-methanone | 131 mg, 86% | O1C(=CC2=C1C=CC=C2)C(=O)C=2C(=NOC2C)C2=CC=CC=C2 | C19H13NO3
